US04618627
To a mixture of 400 mg of oily sodium hydride (60%) and 50 ml of 1,2-dimethoxyethane was added dropwise a mixture of 3.06 g of dimethyl 2-oxooctylphosphonate and 10 ml of dimethoxyethane with stirring under ice-cooling. After adding thereto 5 ml of dimethyl sulfoxide and stirring the mixture for one hour at room temperature, a mixture of 2.22 g of 3,4-diacetoxybenzaldehyde and 10 ml of dimethoxyethane was added dropwise to the mixture. After stirring the resultant mixture for 4 hours at room temperature, 400 ml of water was added to the reaction mixture and the product was extracted twice each time with 50 ml of ether. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was applied to silica gel (120 g) column chromatography and eluted with a mixture of toluene and ethyl acetate (20:1) to provide 2.67 g of 1-(3,4-diacetoxyphenyl)-1-nonen-3-one.

reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | dimethyl 2-oxooctylphosphonate | 3.06 g | O=C(CP(OC)(OC)=O)CCCCCC | C10H21O4P
reactant | 3,4-diacetoxybenzaldehyde | 2.22 g | C(C)(=O)OC=1C=C(C=O)C=CC1OC(C)=O | C11H10O5
solvent | water | 400 ml | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 1-(3,4-diacetoxyphenyl)-1-nonen-3-one | 2.67 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C=CC(CCCCCC)=O | C19H24O5
